US08044120B2
1,8-Diazabicyclo[5.4.0]undec-7-enium sulfamate
57.1 g (0.5 mol) of ammonium sulfamate were introduced into a 500 ml stirred reactor fitted with nitrogen inlet and separate feed device and suspended in 200 ml of methanol. Over the course of 30 minutes 76.1 g (0.5 mol) of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU) were added, where upon the reaction mixture was solubilized. The mixture was stirred over night at ambient temperature and then the solvent was evaporated and the remaining solid dried in vacuo.

reactant | ammonium sulfamate | 0.5 mol, 57.1 g | S(N)([O-])(=O)=O.[NH4+]
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.5 mol, 76.1 g | N12CCCCCC2=NCCC1 | C9H16N2
product | 1,8-Diazabicyclo[5.4.0]undec-7-enium sulfamate | S(N)([O-])(=O)=O.[NH+]12CCCCCC2=NCCC1 | InChI=1S/C9H16N2.H3NO3S/c1-2-5-9-10-6-4-8-11(9)7-3-1;1-5(2,3)4/h1-8H2;(H3,1,2,3,4)
